US04411913
Two drops of piperidine are added to 1.8 g 6,7,8,9-tetrahydro-7,7-dimethyl-6-oxo-5H-benzocyclohepten-1-ol in 8 ml epichlorohydrin. The mixture is stirred at 100° for 4 hours. The solution is evaporated, taken up in ether, filtered and concentrated to give crude 1-(3-chloro-2-hydroxypropoxy)-6,7,8,9-tetrahydro-7,7-dimethyl-5H-benzocyclohepten-6-one.

reactant | 6,7,8,9-tetrahydro-7,7-dimethyl-6-oxo-5H-benzocyclohepten-1-ol | 1.8 g | CC1(C(CC=2C(CC1)=C(C=CC2)O)=O)C | C13H16O2
reactant | epichlorohydrin | 8 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | piperidine | Two drops | N1CCCCC1 | C5H11N
product | 1-(3-chloro-2-hydroxypropoxy)-6,7,8,9-tetrahydro-7,7-dimethyl-5H-benzocyclohepten-6-one | ClCC(COC1=CC=CC2=C1CCC(C(C2)=O)(C)C)O | C16H21ClO3
